US07615569B2
To a solution of 4-(thiazol-2-ylsulfamoyl)-benzimidic acid ethyl ester (0.18 mmol) in ethanol (5 mL) was added hydrazine (0.1 mL) and the resulting mixture was stirred for 10 min. After the reaction mixture was concentrated in vacuo, it gave 4-(thiazol-2-ylsulfamoyl)-N-aminobenzamidine, which was used in next step without further purification. The crude 4-(thiazol-2-ylsulfamoyl)-N-aminobenzamidine was dissolved in THF and dichloromethane (10 mL, 1:1), and (3-chloro-phenyl)-acetyl chloride (0.36 mmol) and triethyl amine (0.9 mmol) were added. The mixture was stirred for 24 h before it was concentrated in vacuo. The mixture was diluted with AcOEt (30 mL) and the organic phase was washed with brine, dried over MgSO4, and concentrated in vacuo. The solution of the residue in DMF and acetic acid (10 mL, 1:1) of was stirred at 80° C. for 24 h. After cooled to room temperature, the acetic acid was removed in vacuo and the residue was diluted with AcOEt (30 mL) and the organic phase was washed with brine, dried over MgSO4, and concentrated in vacuo. The crude product was purified by reverse phase HPLC to give 4-[5-(3-chloro-benzyl)-4H-[1,2,4]triazol-3-yl]-N-thiazol-2-yl-benzenesulfonamide (0.05 mmol).

reactant | 4-(thiazol-2-ylsulfamoyl)-benzimidic acid ethyl ester | 0.18 mmol | C(C)OC(C1=CC=C(C=C1)S(NC=1SC=CN1)(=O)=O)=N | C12H13N3O3S2
reactant | hydrazine | 0.1 mL | NN | H4N2
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 4-(thiazol-2-ylsulfamoyl)-N-aminobenzamidine | S1C(=NC=C1)NS(=O)(=O)C1=CC=C(C(=N)NN)C=C1 | C10H11N5O2S2
